US07790709B2
Preparation of (R)-(−)-(E)-N-Methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylamide hydrochloride
According to the procedure of Example 1, except substituting methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine for the methyl-(1-propyl-naphthalen-2-ylmethyl)amine, and substituting (R)-(E)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylic acid hydrochloride for the (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride, the title compound (96 mg, 57%) was prepared as a tan powder: [α]25D −154.3° (c 1.01, methanol); 1H NMR (300 MHz, DMSO-d6) δ 12.47 (br s, 1H), 11.29 (br s, 1H), 8.84 (s, 1H), 8.33 (s 1H), 7.89-7.86 (m, 1H), 7.75-7.72 (m, 1H), 7.65-7.60 (m, 1H), 7.42-7.31 (m, 3H), 5.13-4.90 (m, 2H), 4.48-4.25 (m, 2H), 3.59-3.47 (m, 5H), 3.17-2.95 (m, 3H), 2.42 (s, 3H), 2.10-1.89 (m, 2H); MS (ESI) m/e 447 (M+H)+.

reactant | methyl-(3-methyl-benzo[b]thiophen-2-ylmethyl)amine | CNCC1=C(C2=C(S1)C=CC=C2)C | C11H13NS
reactant | methyl-(1-propyl-naphthalen-2-ylmethyl)amine | CNCC1=C(C2=CC=CC=C2C=C1)CCC | C15H19N
reactant | (R)-(E)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylic acid hydrochloride | Cl.O=C1NC2=C(CN3CCC[C@H]13)C=C(C=N2)/C=C/C(=O)O
reactant | (E)-3-(4-methyl-2-oxo-2,3,4,5-tetrahydro-1H-pyrido[2,3-e][1,4]diazepin-7-yl)acrylic acid hydrochloride | Cl.CN1CC(NC2=C(C1)C=C(C=N2)/C=C/C(=O)O)=O
solvent | methanol | CO | CH4O
product | (R)-(−)-(E)-N-Methyl-N-(3-methyl-benzo[b]thiophen-2-ylmethyl)-3-(10-oxo-2,3,4,9,10,10a-hexahydro-1H-3a,8,9-triaza-benzo[f]azulen-6-yl)acrylamide hydrochloride | 96 mg, 57% | Cl.CN(C(\C=C\C=1C=NC2=C(CN3CCC[C@@H]3C(N2)=O)C1)=O)CC1=C(C2=C(S1)C=CC=C2)C | InChI=1S/C25H26N4O2S.ClH/c1-16-19-6-3-4-8-21(19)32-22(16)15-28(2)23(30)10-9-17-12-18-14-29-11-5-7-20(29)25(31)27-24(18)26-13-17;/h3-4,6,8-10,12-13,20H,5,7,11,14-15H2,1-2H3,(H,26,27,31);1H/b10-9+;/t20-;/m1./s1
